US04539410
A mixture of 1-(7-ethoxycarbonylheptyl)-2-(1-imidazolyl)-3-methylindole (0.75 g), absolute ethanol (2 ml), and 3N sodium hydroxide (10 ml) is stirred at room temperature for 18 hours. The resulting clear solution is concentrated in vacuo and the residue obtained is diluted with water (40 ml) and acidified to pH 5.9 with 1N hydrochloric acid. The mixture is extracted with ethyl acetate (3×25 ml) and the extract is washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo to give an oil which crystallizes on standing. The solid is purified by trituration with ether (10 ml) to give 1-(7-carboxyheptyl)-2-(1-imidazolyl)-3-methylindole; m.p. 101°-103°.

reactant | 1-(7-ethoxycarbonylheptyl)-2-(1-imidazolyl)-3-methylindole | 0.75 g | C(C)OC(=O)CCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C22H29N3O2
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 3N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 1-(7-carboxyheptyl)-2-(1-imidazolyl)-3-methylindole | C(=O)(O)CCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C20H25N3O2
